2122-05-08 09:41:00 Physician Attending Progress Note
Chief Complaint: hypoxia and hypotension
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   62F with recent new dx esophageal ca, hypoxia with hypotension after
   attempt at dilation of stricture, likely some aspiration, significant
   improvement soon after transfer with minimal intubation:
   24 Hour Events:
   Steroids equivalent given by IV;
   No additional fluids given;
   Weaned off pressor and O2
   Swallow eval today; needs thin liquids only and really cannot tolerate
   meds.
   History obtained from Patient
   Allergies:
   Toprol Xl (Oral) (Metoprolol Succinate)
   Wheezing; diffi
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Other medications:
   asa 81,
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: Fatigue, No(t) Fever, No(t) Weight loss
   Cardiovascular: No(t) Chest pain, No(t) Palpitations, No(t) Edema
   Nutritional Support: No(t) NPO
   Respiratory: No(t) Cough, No(t) Dyspnea, No(t) Tachypnea
   Gastrointestinal: No(t) Abdominal pain, No(t) Nausea, No(t) Emesis,
   No(t) Diarrhea, No(t) Constipation
   Genitourinary: No(t) Dysuria
   Flowsheet Data as of  [**2122-5-8**] 09:40 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.9
C (98.4
   Tcurrent: 36.6
C (97.8
   HR: 101 (95 - 105) bpm
   BP: 88/36(61) {65/29(40) - 127/101(107)} mmHg
   RR: 26 (17 - 34) insp/min
   SpO2: 88%
   Heart rhythm: SR (Sinus Rhythm)
                  Total In:
                                                                    840 mL
                                                                    240 mL
   PO:
                                                                    340 mL
                                                                    240 mL
   TF:
   IVF:
                                                                    500 mL
   Blood products:
   Total out:
                                                                    400 mL
                                                                    400 mL
   Urine:
                                                                    400 mL
                                                                    400 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    440 mL
                                                                   -160 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 88%
   ABG: ///32/
   Physical Examination
   General Appearance: No(t) Well nourished, No acute distress, No(t)
   Overweight / Obese, Thin, No(t) Anxious
   Cardiovascular: (PMI Normal), (S1: Normal), (S2: Normal), (Murmur:
   No(t) Systolic)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Dullness :
   left base), (Breath Sounds: Diminished: left base); mild crackles at R
   base
   Abdominal: Soft, Obese
   Extremities: Right: 1+, Left: 1+
   Skin:  small area of small nodular vesicular rash on righ buttock
   erythematous, minimally tender
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   8.7 g/dL
   376 K/uL
   132 mg/dL
   0.5 mg/dL
   32 mEq/L
   4.0 mEq/L
   8 mg/dL
   103 mEq/L
   144 mEq/L
   28.2 %
   7.3 K/uL
        [image002.jpg]
                             [**2122-5-7**]  04:02 PM
                             [**2122-5-7**]  09:57 PM
                             [**2122-5-8**]  04:31 AM
   WBC
   7.6
   7.3
   Hct
   28.5
   28.2
   Plt
   413
   376
   Cr
   0.5
   0.5
   TropT
   <0.01
   <0.01
   <0.01
   Glucose
   93
   132
   Other labs: PT / PTT / INR:/23.6/, CK / CKMB / Troponin-T:28/3/<0.01,
   Differential-Neuts:85.6 %, Lymph:6.0 %, Mono:7.2 %, Eos:1.1 %, Ca++:8.6
   mg/dL, Mg++:2.0 mg/dL, PO4:3.4 mg/dL
   Imaging: cxr: different technique
   Assessment and Plan
 .H/O CANCER (MALIGNANT NEOPLASM), ESOPHAGEAL
   62F with CAD, AS, history of multiple cancers, now with new diagnosis
   of esophageal ca undergoing work-up, in ICU post EGD due to hypoxia and
   hypotension, likely from mild aspiration:
   ESOPH CA:
   -diet per SLP
   -onc plan per onc and surgery
   -awaiting possible PEG
   CAD:
   -cont asa
   -holding plavix pending surgical evaluation
   HYPOTENSION: some degree of adrenal insuff
   -cont steroids
   -tolerating low bp if asymptomatic
   -continue gentle hydration while poor po intake
   RASH ON BUTTOCK: doubt zoster
   -dfa scrape for hsv/vzv
   DISPO:
   - floor pending discussion with onc
   ICU Care
   Nutrition:
   Comments: pureed diet; awaiting possible PEG
   Glycemic Control:  Blood sugar well controlled
   Lines:
   20 Gauge - [**2122-5-7**] 07:00 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer:
   VAP:
   Comments:
   Communication: ICU consent signed Comments:
   Code status: Full code
   Disposition :Transfer to floor
   Total time spent: 20 minutes
   Patient is not critically ill
   ------ Protected Section ------
   I was physically present with the housestaff team and fellow for
   discussion of the above history, physical, laboratory data and
   assessment and plan with which I agree.
   I would add the following comments
   Hypotension remains significant through to this morning.  She has
   reasonable volume status to argue against significant pre-load
   dependent state, she has elevated EF, no evidence of pericardial
   effusion but concern for restrictive pericarditis is present but
   minimal quantification of extent of restriction is seen.  This leaves
   vasodilatory state as driving force of hypotension
this is in the
   setting of nl TSH leaving possible adrenal insufficiency present.
   Alternative sources of low SVR do appear to be absent.
   Will
   -Provide fluid bolus as needed
   -Will continue to provide intermittent BP monitoring
   -Will check pulsus for possible tamponade
   -Will check AM cortisol
   -Expect improvement with continued volume replacement.
   Critical Care Time-35 minutes total
   ------ Protected Section Addendum Entered By:[**Name (NI) 983**] [**Last Name (NamePattern1) 984**], MD
   on:[**2122-5-8**] 17:47 ------

2122-05-08 11:56:00 Physician Resident Progress Note
TITLE:
   24 Hour Events:
   - TTE with no significant change from prior
   - Weaned off pressors
   - Weaned off O2 supplementation
   - Pt reports swallowing improved today
   Allergies:
   Toprol Xl (Oral) (Metoprolol Succinate)
   Wheezing; diffi
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2122-5-8**] 11:39 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37
C (98.6
   Tcurrent: 37
C (98.6
   HR: 101 (95 - 105) bpm
   BP: 68/46(49) {65/29(40) - 127/101(107)} mmHg
   RR: 36 (17 - 37) insp/min
   SpO2: 94%
   Heart rhythm: ST (Sinus Tachycardia)
                  Total In:
                                                                    840 mL
                                                                    480 mL
   PO:
                                                                    340 mL
                                                                    480 mL
   TF:
   IVF:
                                                                    500 mL
   Blood products:
   Total out:
                                                                    400 mL
                                                                    525 mL
   Urine:
                                                                    400 mL
                                                                    525 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    440 mL
                                                                    -45 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 94%
   ABG: ///32/
   Physical Examination
   General: Awake, alert, anxious.
   Pulmonary: Decreased breath sounds at bases otherwise clear b/l
   Cardiac: RRR, 3/6 systolic murmur.
   Abdomen: Soft, NT, ND, normoactive bowel sounds
   Extremities:1+ pitting edema b/l LE, 2+ radial, DP pulses b/l. Swollen
   left arm
   Neurologic: Alert, oriented x 3.
   Labs / Radiology
   376 K/uL
   8.7 g/dL
   132 mg/dL
   0.5 mg/dL
   32 mEq/L
   4.0 mEq/L
   8 mg/dL
   103 mEq/L
   144 mEq/L
   28.2 %
   7.3 K/uL
        [image002.jpg]
                             [**2122-5-7**]  04:02 PM
                             [**2122-5-7**]  09:57 PM
                             [**2122-5-8**]  04:31 AM
   WBC
   7.6
   7.3
   Hct
   28.5
   28.2
   Plt
   413
   376
   Cr
   0.5
   0.5
   TropT
   <0.01
   <0.01
   <0.01
   Glucose
   93
   132
   Other labs: PT / PTT / INR:/23.6/, CK / CKMB / Troponin-T:28/3/<0.01,
   Differential-Neuts:85.6 %, Lymph:6.0 %, Mono:7.2 %, Eos:1.1 %, Ca++:8.6
   mg/dL, Mg++:2.0 mg/dL, PO4:3.4 mg/dL
   Assessment and Plan
   66F with history of Hodgkin's lymphoma s/o mantle radiation, BrCa s/p L
   mastectoma, chronic pericarditis on steroids, chronic L pleural
   effusion s/p pleurodesis with recently diagnosed esophageal cancer
   admitted after EUS/EGD with hypotension, hypoxia.
   # Hypotension: Resolved - BP running at baseline of 80-90s as reported
   by pt and recent notes; pt asymptomatic on home dose steroids.  Ddx is
   anaesthesia vs dehydration. No evidence of pericardial effusion on TTE.
   CHF/ACS unlikely given nl EKG, cardiac enzymes, and EF.  CXR without
   PTX.
   -Can transition home dose steroids back to; no need for stress dose
   steroids
   # Hypoxia: Resolved - now satting well on RA. Suspect this is acute
   decompensation in setting of intubation with some bronchospasm given
   initial wheezing.
   -Aspiration precautions
   # Esophageal CA: Staged T3Nx by EUS criteria, with large exophytic mass
   in esophagus not amenable to further dilation. Per Dr. [**Last Name (STitle) **]
   ([**Doctor First Name **]), esophagectomy would not be first choice if XRT feasible. Could
   do PEG if pt amenable.
-F/u any GI or thoracics recs; thin liquids and moist pureed solids per S/S recs
   -Consider Cardiothoracic c/s as inpatient vs outpatient (per chart it
   appears pt still needs PFTs/MRI as part of pre-op work up)
   -Ocologist/cardiothoracics aware of admission
   # CAD: Known CAD with stents and CABG.  Cath in [**1-/2122**] showed patent
   stents, now with some substernal discomfort, likely in setting of
   EGD/insufflation although has been stressed with tachycardia, hypoxia
   so may be at risk for some demand ischemia. Additionally has been off
   anti-platelet agents x 1 week. Ruled out for MI.
   -Continue statin
   -Holding ASA/plavix for now in case of possible surgical intervention
   # Pericarditis: No effusion on TTE.
   -Continue home dose steroids (resume po)
   # Hypothyroidism:
   -Continue levothyroxine
   # GERD:
   -Continue PPI
   # HL:
   -Continue statin
   # Anxiety: On venlafaxine at home,
   -Switch to non-slow-release version to allow pill to be crushed
   ICU Care
   Nutrition: Thin liquids and moist pureed solids, replete lytes prn,
   aspiration precautions, possible PEG placement
   Glycemic Control: Blood sugar well controlled
   Lines:
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer:
   VAP:
   Comments:
   Communication: Patient discussed on interdisciplinary rounds , ICU
   Code status: Full code
   Disposition: Call out to OMED v. to home today pending further
   discussion with primary oncologist

2122-05-09 07:25:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   - S&S: crushed Pills
   - IR: PEG on monday
   - BP remained low and thwerefore didn't call out.  Thinking may be
   element of iatragenic AI and therefore increased her steroids to 15
   pred daily.
   - Lesions on right [**Last Name (LF) 8902**], [**First Name3 (LF) **] be HSV - recieved DFA kit but didn't
   want to use it at 2300.
   Allergies:
   Toprol Xl (Oral) (Metoprolol Succinate)
   Wheezing; diffi
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2122-5-9**] 07:07 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37
C (98.6
   Tcurrent: 36.7
C (98
   HR: 103 (97 - 107) bpm
   BP: 118/56(129) {62/25(29) - 118/63(129)} mmHg
   RR: 32 (18 - 37) insp/min
   SpO2: 86%
   Heart rhythm: ST (Sinus Tachycardia)
             Total In:
                                                                  2,321 mL
                                                                    929 mL
   PO:
                                                                    625 mL
                                                                    125 mL
   TF:
   IVF:
                                                                  1,696 mL
                                                                    804 mL
   Blood products:
   Total out:
                                                                    650 mL
                                                                    250 mL
   Urine:
                                                                    650 mL
                                                                    250 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,671 mL
                                                                    679 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 86%
   ABG: ///31/
   Physical Examination
   General: Awake, alert, anxious.
   Pulmonary: Decreased breath sounds at bases otherwise clear b/l
   Cardiac: RRR, 3/6 systolic murmur.
   Abdomen: Soft, NT, ND, normoactive bowel sounds
   Extremities:1+ pitting edema b/l LE, 2+ radial, DP pulses b/l. Swollen
   left arm
   Neurologic: Alert, oriented x 3.
   Labs / Radiology
   389 K/uL
   8.9 g/dL
   154 mg/dL
   0.5 mg/dL
   31 mEq/L
   4.0 mEq/L
   9 mg/dL
   99 mEq/L
   135 mEq/L
   29.5 %
   11.4 K/uL
        [image002.jpg]
                             [**2122-5-7**]  04:02 PM
                             [**2122-5-7**]  09:57 PM
                             [**2122-5-8**]  04:31 AM
                             [**2122-5-9**]  04:50 AM
   WBC
   7.6
   7.3
   11.4
   Hct
   28.5
   28.2
   29.5
   Plt
   [**Telephone/Fax (3) 8903**]
   Cr
   0.5
   0.5
   0.5
   TropT
   <0.01
   <0.01
   <0.01
   Glucose
   93
   132
   154
   Other labs: PT / PTT / INR:13.3/24.2/1.1, CK / CKMB /
   Troponin-T:28/3/<0.01, Differential-Neuts:85.6 %, Lymph:6.0 %, Mono:7.2
   %, Eos:1.1 %, Ca++:8.3 mg/dL, Mg++:1.9 mg/dL, PO4:2.4 mg/dL
   Assessment and Plan
   66F with history of Hodgkin's lymphoma s/o mantle radiation, BrCa s/p L
   mastectoma, chronic pericarditis on steroids, chronic L pleural
   effusion s/p pleurodesis with recently diagnosed esophageal cancer
   admitted after EUS/EGD with hypotension, hypoxia.
   # Hypotension: BP running at baseline of 80-90s as reported by pt and
   recent notes; pt asymptomatic on home dose steroids.  Patient reports
   that for her whole life she has been SBP 80s-90s.  Ddx is dehydration v
   iatrogenic AI for worsening. No evidence of pericardial effusion on
   TTE. CHF/ACS unlikely given nl EKG, cardiac enzymes, and EF.  CXR
   without PTX.
   -Increased steroids to pred 15mg.
   # Hypoxia: Improved - now satting well 2L NC. Suspect this is acute
   decompensation in setting of intubation with some bronchospasm given
   initial wheezing.
   -Aspiration precautions
   -Wean down ro room air.
   # [**Telephone/Fax (3) **] lesions: Concern for HSV.  Unlikely to be zoster based on
   districution.
   -DFA today.
   # Esophageal CA: Staged T3Nx by EUS criteria, with large exophytic mass
   in esophagus not amenable to further dilation. Per Dr. [**Last Name (STitle) **]
   ([**Doctor First Name **]), esophagectomy would not be first choice if XRT feasible. Could
   do PEG if pt amenable.
-F/u any GI or thoracics recs; thin liquids and moist pureed solids per S/S recs
   -Consider Cardiothoracic c/s as inpatient vs outpatient (per chart it
   appears pt still needs PFTs/MRI as part of pre-op work up)
   -Ocologist/cardiothoracics aware of admission
   -Current plan is for PEG in IR on Monday.
   # CAD: Known CAD with stents and CABG.  Cath in [**1-/2122**] showed patent
   stents, now with some substernal discomfort, likely in setting of
   EGD/insufflation although has been stressed with tachycardia, hypoxia
   so may be at risk for some demand ischemia. Additionally has been off
   anti-platelet agents x 1 week. Ruled out for MI.
   -Continue statin
   -Holding ASA/plavix for now in case of possible surgical intervention
   # Pericarditis: No effusion on TTE.
   -Continue home dose steroids (resume po)
   # Hypothyroidism:
   -Continue levothyroxine
   # GERD:
   -Continue PPI
   # HL:
   -Continue statin
   # Anxiety: On venlafaxine at home,
   -Switch to non-slow-release version to allow pill to be crushed
   ICU Care
   Nutrition: Thin liquids and moist pureed solids, replete lytes prn,
   aspiration precautions, possible PEG placement
   Glycemic Control: Blood sugar well controlled
   Lines:
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer:
   VAP:
   Comments:
   Communication: Patient discussed on interdisciplinary rounds , ICU
   Code status: Full code
   Disposition: Call out to OMED
   ------ Protected Section ------
   # Right upper extremity swelling: patient reports increased swelling
   -RUE U/S
   ------ Protected Section Addendum Entered By:[**Name (NI) 8908**] [**Last Name (NamePattern1) 8909**], MD
   on:[**2122-5-9**] 11:09 ------
   MICU Attending Addendum:
   On this day I examined the patient and was present for the key portions
   of the services provided.  I have reviewed Dr [**First Name (STitle) 8909**]
s note and agree
   with his findings and plan of care.  Ms [**Known lastname 8883**] is an unfortunate
   woman with yet another malignancy, this time new esophageal ca.  We are
   awaiting interventional radiology attempting to insert a feeding tub
   past the esophageal lesion on Monday.  Meanwhile we are encouraging the
   patient to take frequent sips of Ensure to improve her nutrititonal
   status.  She has a hx of occasionally wheezing and likely has asthma.
   We will continue nebs and she is already on steroids for her chronic
   pericarditis.  Her LUE is more swollen than ususal and thus we will do
   LUE ultrasound to r/o DVT.  Lastly, she has some buttock lesions that
   resemble HSV, which we will swab and send to the lab.
   [**First Name8 (NamePattern2) 4513**] [**Last Name (NamePattern1) 2045**], MD
   ------ Protected Section Addendum Entered By:[**Name (NI) 4513**] [**Last Name (NamePattern1) 2045**], MD
   on:[**2122-5-9**] 14:37 ------